US06653334B1
Synthesis of tert-Butyl 2-[3-(3-Aminopropyl)phenoxy]-2-methylpropionate
tert-Butyl 2-[3-(3-phthalimidopropyl)phenoxy]-2-methylpropionate (1.87 g, 4.41 mmol) was dissolved in ethanol (10.0 mL) Subsequently, hydrazine monohydrate (184 mg, 5.74 mmol) was added dropwise, and the mixture was stirred overnight at 80° C. Thereafter, the temperature of the mixture was returned to room temperature, and the mixture was subjected to filtration. The resultant filtrate was subjected to drying over sodium sulfate, concentration under reduced pressure, and purification by silica gel chromatography (chloroform/methanol (saturated with ammonia)=20/1), whereby the target compound was obtained (560 mg, 43%).

reactant | tert-Butyl 2-[3-(3-phthalimidopropyl)phenoxy]-2-methylpropionate | 4.41 mmol, 1.87 g | C1(C=2C(C(N1CCCC=1C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC1)=O)=CC=CC2)=O | C25H29NO5
reactant | hydrazine monohydrate | 5.74 mmol, 184 mg | O.NN
solvent | ethanol | 10.0 mL | C(C)O | C2H6O
product | tert-Butyl 2-[3-(3-Aminopropyl)phenoxy]-2-methylpropionate | NCCCC=1C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC1 | C17H27NO3
